US09359336B2
1-[2-(2-amino-5-pyrimidin-2-ylpyridin-3-yl)-1-benzothien-5-yl]-3-[4-chloro-3-(trifluoromethyl)phenyl]urea
1-{2-[2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]-1-benzothien-5-yl}-3-[4-chloro-3-(trifluoromethyl)phenyl]urea (194 mg, 0.33 mmoles) and 2-chloropyrimidine (38 mg, 0.3 mmoles) was added to a mixture of 6 ml of dioxane and 2 ml of 2M aqueous Sodium Carbonate. Next, Palladium(II) Acetate (10 mol %, 7 mg) and Triphenylphosphene (20 mol %, 16 mg) was added, followed by 2 ml of dioxane. Dry nitrogen was bubbled through the resulting solution for 15 minutes. Following this, the reaction mixture was set up with a reflux condenser, under nitrogen atmosphere, and heated at 95 C overnight. The reaction was then cooled to room temperature and 40 ml of ethyl acetate was added. The mixture was transferred to a separatory funnel and extracted with saturated Sodium Bicarbonate (3×40 ml) followed by saturated NaCl (3×40 ml). The organic layer was dried with anhydrous Sodium Sulfate, loaded onto silica and columned using ethyl acetate/hexanes, to give 30 mg of the product. 1H NMR (<dmso>) δ: 9.19 (s, 1H), 9.02 (d, J=2.1 Hz, 1H), 8.99 (s, 1H), 8.83 (d, J=4.7 Hz, 2H), 8.47 (d, J=2.1 Hz, 1H), 8.14 (dd, J=13.8, 2.1 Hz, 2H), 7.90 (d, J=8.8 Hz, 1H), 7.68 (s, 1H), 7.58-7.66 (m, 2H), 7.41 (dd, J=8.8, 2.1 Hz, 1H), 7.35 (t, J=4.8 Hz, 1H), 6.71 (s, 2H).

reactant | 1-{2-[2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]-1-benzothien-5-yl}-3-[4-chloro-3-(trifluoromethyl)phenyl]urea | 0.33 mmoles, 194 mg | NC1=NC=C(C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)B2OC(C(O2)(C)C)(C)C | C27H25BClF3N4O3S
reactant | 2-chloropyrimidine | 0.3 mmoles, 38 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | Sodium Carbonate | 2M, 2 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Palladium(II) Acetate | 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 1-[2-(2-amino-5-pyrimidin-2-ylpyridin-3-yl)-1-benzothien-5-yl]-3-[4-chloro-3-(trifluoromethyl)phenyl]urea | 30 mg | NC1=NC=C(C=C1C=1SC2=C(C1)C=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C2=NC=CC=N2 | C25H16ClF3N6OS
